US04808581
(E)-3-[5-Methyl-1-(triphenylmethyl)-1H-imidazol-4-yl]-1-(1H-indol-3-yl)-2-propen-1-one
A mixture of 5-methyl-1-(triphenylmethyl)-1H-imidazol-4-carboxaldehyde (4.90 g), 3-acetylindole (2.24 g) and potassium hydroxide (6.08 g) in absolute ethanol (100 ml) and water (50 ml) was heated at 80° for 24 h. The suspension was poured into 2N sodium carbonate solution (300 ml) and extracted with dichloromethane (3×150 ml). The combined extracts were dried, filtered and evaporated to give an orange solid (6.5 g) which was triturated with ethyl acetate (50 ml) to give the title compound (2.42 g) as a yellow solid, m.p. 240°-242°.

reactant | 5-methyl-1-(triphenylmethyl)-1H-imidazol-4-carboxaldehyde | 4.90 g | CC1=C(N=CN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=O | C24H20N2O
reactant | 3-acetylindole | 2.24 g | C(C)(=O)C1=CNC2=CC=CC=C12 | C10H9NO
reactant | potassium hydroxide | 6.08 g | [OH-].[K+]
reactant | sodium carbonate | 2N, 300 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 50 ml | O | H2O
product | (E)-3-[5-Methyl-1-(triphenylmethyl)-1H-imidazol-4-yl]-1-(1H-indol-3-yl)-2-propen-1-one | 6.5 g | CC1=C(N=CN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)/C=C/C(=O)C1=CNC2=CC=CC=C12 | C34H27N3O
